US04205069
H-D-Tyr-D-Ala-OMe
t-Boc-D-Tyr-OH was coupled with D-Ala-OMe by the N-hydroxy-succinimide ester method (The Peptides, 1, p. 105). Deprotection was carried out using trifluoroacetic acid (The Peptides, 1, p. 39) and the resulting dipeptide methyl ester salt was purified by chromatography on Sephadex G-10 using 0.2 N HOAc.

reactant | t-Boc-D-Tyr-OH | N([C@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OC(C)(C)C | C14H19NO5
reactant | D-Ala-OMe | N[C@H](C)C(=O)OC | C4H9NO2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | H-D-Tyr-D-Ala-OMe | N[C@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)OC | C13H18N2O4
